US07119094B1
The N-allyl-4-(t-butoxycarbonylamidino)benzylamine (3.97 mmoles, 1.15 g) and chlorotris(triphenylphosphine)-rhodium(I) (0.21 mmoles, 195 mg) was stirred in acetonitrile/water (84:16, 92 mL) under nitrogen. The mixture was refluxed for 3 hr and allowed to cool to room temperature. Then the mixture was filtered through a pad of celite and the solvent removed in vacuo. The residue was dried on a high vacuum pump to yield an orange glassy product 4-(t-Butoxycarbonylamidino)benzylamine product was verified by HPLC/MS and used without further purification.

reactant | N-allyl-4-(t-butoxycarbonylamidino)benzylamine | 3.97 mmoles, 1.15 g | C(C=C)NCC1=CC=C(C=C1)C(NC(=O)OC(C)(C)C)=N | C16H23N3O2
solvent | acetonitrile water | 92 mL | C(C)#N.O
catalyst | chlorotris(triphenylphosphine)-rhodium(I) | 0.21 mmoles, 195 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 4-(t-Butoxycarbonylamidino)benzylamine | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(CN)C=C1 | C13H19N3O2
